US03957809
A current of hydrochloric acid gas was passed with stirring through a solution of 30 g of 2-propyl-thiazole-5-carboxylic acid in 400 ml of absolute ethanol overnight and the ethanol was then evaporated off. The oily residue was taken up in ether containing 10% of potassium carbonate and the mixture was extracted with ether. The ether extracts were washed with water until a pH of 6 was obtained and the resulting yellow oil was purified by distillation to obtain 31.2 g of ethyl 2-propyl-thiazole-5-carboxylate with a boiling point of 139°-140°C at 16 mmHg.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-propyl-thiazole-5-carboxylic acid | 30 g | C(CC)C=1SC(=CN1)C(=O)O | C7H9NO2S
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 2-propyl-thiazole-5-carboxylate | 31.2 g | C(CC)C=1SC(=CN1)C(=O)OCC | C9H13NO2S
